US08754079B2
XXXXX.1. 2-(Cyclopent-2-enyloxy)-4-fluoro-1-nitrobenzene
To a mixture of 5-fluoro-2-nitrophenol (1.48 g), 2-cyclopenten-1-ol (662 mg) and triphenylphosphine (2.47 g) in THF (25.0 ml) diethylazodicarboxylate (1.48 ml) was added at 0° C. After stirring at room temperature overnight the reaction mixture was diluted with methylene chloride and washed with 10% aq. KHSO4. The organic layer was passed through a hydrophobic frit and concentrated in vacuo. The residue was purified by chromatography to give the desired product.

reactant | 5-fluoro-2-nitrophenol | 1.48 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | 2-cyclopenten-1-ol | 662 mg | C1(C=CCC1)O | C5H8O
reactant | triphenylphosphine | 2.47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 25.0 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(Cyclopent-2-enyloxy)-4-fluoro-1-nitrobenzene | C1(C=CCC1)OC1=C(C=CC(=C1)F)[N+](=O)[O-] | C11H10FNO3
